US09193935B2
16.4: 2-(5.7.7-Trimethyloct-2-en-2-yl)naphthalene
Starting from (1-(2-naphthyl)ethyltriphenylphosphonium bromide (2.80 g, 5.63 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.5 mL, 5.63 mmol, 1.0 equiv.) and 3,5,5-trimethylhexanal (1.20 g, 8.44 mmol, 1.5 equiv.), and after stirring the mixture at 25° C. for 3 h, 0.73 g (46%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | 1-(2-naphthyl)ethyltriphenylphosphonium bromide | 5.63 mmol, 2.80 g, 1.0 equiv. | [Br-].C1=C(C=CC2=CC=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 5.63 mmol, 1.6 M, 3.5 mL, 1.0 equiv. | [Li]CCCC
reactant | 3,5,5-trimethylhexanal | 8.44 mmol, 1.20 g, 1.5 equiv. | CC(CC=O)CC(C)(C)C | C9H18O
product | 2-(5.7.7-Trimethyloct-2-en-2-yl)naphthalene | 0.73 g, 46% | CC(CC=C(C)C1=CC2=CC=CC=C2C=C1)CC(C)(C)C | C21H28
